US06114391
a) Preparation of 3-hydroxy-2-(N-methyl-(3-phenylpropyl)amino)propanoic acid methyl ester
A solution of N-(3-phenylpropyl)serine methyl ester (6.4 g, 0.027 mol) in methanol (150 ml) is added with 10% Pd-on-carbon (0.7 g) and 40% formic aldehyde (3.0 ml 0.04 mol) dissolved in methanol (50 ml). The mixture is stirred at room temperature under hydrogen atmosphere, under a slight pressure (40 psi) until the absorption ceases. The mixture is filtered and the filtrate is evaporated under vacuum. The residue is taken up in ethyl ether (300 ml), washed with water (2×200 ml), dried over sodium sulfate and evaporated under vacuum. Yield: 6.6 g

reactant | N-(3-phenylpropyl)serine methyl ester | 0.027 mol, 6.4 g | COC([C@@H](NCCCC1=CC=CC=C1)CO)=O | C13H19NO3
reactant | formic aldehyde | 0.04 mol, 3.0 ml | C=O | CH2O
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 3-hydroxy-2-(N-methyl-(3-phenylpropyl)amino)propanoic acid methyl ester | COC(C(CO)N(C)CCCC1=CC=CC=C1)=O | C14H21NO3
